US09399639B2
Step 2) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl cyclohexyl carbonate
To a solution of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (5 g, 10.2 mmol) in THF (36 mL) was added KOH (1.1 g, 20.4 mmol). The reaction was stirred at rt for 0.5 h, followed by the addition of a solution of 1-chloroethyl cyclohexyl carbonate (2.3 g, 11.2 mmol) in THF (9 mL). The mixture was refluxed for 16 h, then cooled to rtand diluted with THF (50 mL). The resulting mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=8/1) to give the title compound as a white solid (3.49 g, 51.9%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 10.2 mmol, 5 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 20.4 mmol, 1.1 g | [OH-].[K+]
reactant | 1-chloroethyl cyclohexyl carbonate | 11.2 mmol, 2.3 g | C(OC(C)Cl)(OC1CCCCC1)=O | C9H15ClO3
solvent | THF | 36 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl cyclohexyl carbonate | 3.49 g, 51.9% | C(OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(OC2CCCCC2)=O | C32H32ClF2N3O6S
